US09216980B2
Preparation of 4-(4-Bromobenzyl)-thiomorpholine 1-oxide
A mixture of 4-(4-bromobenzyl)-thiomorpholine (0.20 g, 0.735 mmol) was dissolved in DCM (10 mL) under a nitrogen atmosphere and m-chloroperbenzoic acid (0.13 g, 0.74 mmol) was added portionwise. The reaction mixture was stirred at room temperature for 1 h then purified by flash chromatography (silica, Biotage 50 g column, 0-75% (10% methanol in DCM)) to afford the title compound (0.125 g, 59%). 1H NMR (DMSO-D6, 400 MHz): 7.55-7.49 (m, 2H), 7.31-7.25 (m, 2H), 3.53 (s, 2H), 2.92-2.80 (m, 4H), 2.78-2.65 (m, 2H), 2.64-2.54 (m, 2H). LCMS (Method G): RT=2.66 min, M+H+=289.

reactant | 4-(4-bromobenzyl)-thiomorpholine | 0.735 mmol, 0.20 g | BrC1=CC=C(CN2CCSCC2)C=C1 | C11H14BrNS
reactant | m-chloroperbenzoic acid | 0.74 mmol, 0.13 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 4-(4-Bromobenzyl)-thiomorpholine 1-oxide | 0.125 g, 59% | BrC1=CC=C(CN2CCS(CC2)=O)C=C1 | C11H14BrNOS
